US05279999
A mixture of 7.9 g (0.050 mole) of bromobenzene in 15 ml tetrahydrofuran was slowly added to a mixture of 34 ml of a solution of n-butyllithium in hexane (1.6 mole/liter, 0.055 mole n-butyllithium) and 40 ml of tetrahydrofuran at -80° C. At -40° C., 4.7 g (0.030 mole) of 3-phenylcyclopent-2-en-1-one in a small amount of tetrahydrofuran, was slowly added to the mixture. The resultant mixture was allowed to reach room temperature. Methanol and water were added. The 1,3-diphenylcyclopentadiene formed was recovered by extraction and crystallization.

reactant | bromobenzene | 0.050 mole, 7.9 g | BrC1=CC=CC=C1 | C6H5Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.055 mole, 1.6 mole/liter | CCCCCC | C6H14
reactant | 3-phenylcyclopent-2-en-1-one | 0.030 mole, 4.7 g | C1(=CC=CC=C1)C1=CC(CC1)=O | C11H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Methanol | CO | CH4O
product | 1,3-diphenylcyclopentadiene | C1(=CC=CC=C1)C1=CC(=CC1)C1=CC=CC=C1 | C17H14
